US08455488B2
Synthesis of 1-(4-chlorobenzyl)-3-(2-((S)-1-((benzo[b]thiophen-3-ylmethyl)((5)-1,1-diethoxy-propan-2-yl)amino)-1,4-dioxo-4-(tritylamino)butan-2-ylamino)-2-oxoethoxy)urea (Compound II-126)
According to the procedure described in the synthesis method of Compound II-15, 2-(3-(4-chlorobenzyl)ureidooxy)acetic acid (Compound VI-11) 60 mg (0.23 mmol) was coupled with (S)-2-amino-N1-(benzo[b]thiophen-3-ylmethyl)-N1—((S)-1,1-diethoxypropan-2-yl)-N4-tritylsuccinamide (Compound IV-21) 100 mg (0.15 mmol) to obtain the title compound.

reactant | 2-(3-(4-chlorobenzyl)ureidooxy)acetic acid | 0.23 mmol, 60 mg | ClC1=CC=C(CNC(NOCC(=O)O)=O)C=C1 | C10H11ClN2O4
reactant | (S)-2-amino-N1-(benzo[b]thiophen-3-ylmethyl)-N1—((S)-1,1-diethoxypropan-2-yl)-N4-tritylsuccinamide | 0.15 mmol, 100 mg | N[C@H](C(=O)N([C@H](C(OCC)OCC)C)CC=1C2=C(SC1)C=CC=C2)CC(=O)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C39H43N3O4S
product | 1-(4-chlorobenzyl)-3-(2-((S)-1-((benzo[b]thiophen-3-ylmethyl)((5)-1,1-diethoxy-propan-2-yl)amino)-1,4-dioxo-4-(tritylamino)butan-2-ylamino)-2-oxoethoxy)urea | ClC1=CC=C(CNC(=O)NOCC(=O)N[C@H](C(=O)N([C@H](C(OCC)OCC)C)CC=2C3=C(SC2)C=CC=C3)CC(NC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)=O)C=C1 | C49H52ClN5O7S
